US07371743B2
(c) 3-methoxy-4-(piperidin-2-on-1-yl)-benzoic acid
Prepared analogously to Example 39d from methyl 3-methoxy-4-(piperidin-2-on-1-yl)-benzoate and lithium hydroxide in ethanol.

reactant | methyl 3-methoxy-4-(piperidin-2-on-1-yl)-benzoate | COC=1C=C(C(=O)OC)C=CC1N1C(CCCC1)=O | C14H17NO4
reactant | lithium hydroxide | [OH-].[Li+]
solvent | ethanol | C(C)O | C2H6O
product | 3-methoxy-4-(piperidin-2-on-1-yl)-benzoic acid | COC=1C=C(C(=O)O)C=CC1N1C(CCCC1)=O | C13H15NO4
